US06846819B1
a) (E)-3-(6-Aminopyridin-3-yl)acrylic acid
Acrylic acid (23 ml, 0.33 mole) was added carefully to a solution of 2-amino-5-bromopyridine (25.92 g, 0.15 mole) and Na2CO3 (55.64 g, 0.53 mole) in H2O (600 mL). PdCl2 (0.53 g, 0.003 mole) was then added, and the mixture was heated at reflux. After 24 hr, the reaction was cooled to RT and filtered, and the filtrate was adjusted to pH 6 with aqueous HCl. Additional H2O (0.5 L) was added to improve mixing, and the mixture was stirred for 1 hr. The pH was readjusted to 6, then the solid was collected by suction filtration. The filter pad was washed sequentially with H2O (2×0.5 L), cold absolute EtOH (100 mL), and Et2O (2×250 mL). Drying in high vacuum at elevated temperature gave the title compound (15.38 g, 62%) as a tan solid: 1H NMR (300 MHz, DMSO-d6) δ 8.11 (d, J=2.0 Hz, 1 H), 7.75 (dd, J=8.7, 2.0 Hz, 1 H), 7.43 (d, J=15.8 Hz, 1 H), 6.53 (s, 2 H), 6.45 (d, J=8.7 Hz, 1 H), 6.22 (d, J=15.8 Hz, 1 H); MS (ES) m/e 165 (M+H)+.

reactant | Acrylic acid | 0.33 mole, 23 ml | C(C=C)(=O)O | C3H4O2
reactant | 2-amino-5-bromopyridine | 0.15 mole, 25.92 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | Na2CO3 | 0.53 mole, 55.64 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 600 mL | O | H2O
catalyst | PdCl2 | 0.003 mole, 0.53 g | Cl[Pd]Cl
product | (E)-3-(6-Aminopyridin-3-yl)acrylic acid | 15.38 g, 62% | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
